US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOBUTYLETHYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-cyclobutylethyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (47% yield). 1H NMR (300 MHz, CDCl3) δ 8.02, 7.74, 7.73, 7.57, 7.35, 6.98, 4.03, 3.89-3.66, 3.40-3.31, 2.36, 2.09-2.00, 1.92-1.57. 13C NMR (75 MHz, CDCl3) δ 167.6, 134.3, 132.4, 129.5, 127.2, 127.0, 126.9, 126.8, 126.7, 125.5, 121.8, 112.6, 46.4, 44.6, 44.5, 41.3, 37.6, 36.5, 33.7, 28.3, 18.6. MS (ES+) m/z 462.3 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclobutylethyl)amide | C1(CCC1)CCNC(=O)C=1N=NC(=CC1)Cl | C11H14ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOBUTYLETHYL)AMIDE | C1(CCC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H26F3N5O2
